US08039450B2
To a solution of 1-fluoro-4-nitro-benzene (1.1 mL, 10.0 mmol, 1.0 eq.), 2-bromo-5-hydroxy-benzaldehyde (2.0 g, 10.0 mmol, 1.0 eq.) in DMF (30.0 mL) was added K2CO3 (1.7 g, 12.0 mmol, 1.2 eq.) under nitrogen atmosphere. The mixture was heated at 100° C. overnight. After cooling to room temperature, the mixture was poured into EtOAc (30 mL) and sat. H2O (30 mL). The layers were separated and the aqueous phase was extracted with EtOAc (3×20 mL). Combined organic extracts was washed with brine (30 mL), dried over MgSO4, filtered and the filtrate was concentrated under reduced pressure. The residue was applied to silica chromatography eluting with EtOAc/Heptanes (0:100 to 100:0) to give 2-bromo-5-(4-nitro-phenoxy)-benzaldehyde as a yellow fine powder. 1H NMR (CHLOROFORM-d) δ: 10.31-10.37 (m, 10H), 8.26 (dd, J=9.0, 0.3 Hz, 15H), 8.21-8.28 (m, 13H), 7.73 (d, J=8.6 Hz, 3H), 7.73 (dt, J=8.7, 0.5 Hz, 7H), 7.62 (dd, J=3.1, 0.3 Hz, 10H), 7.20-7.29 (m, 19H), 7.00-7.10 (m, 23H). Amount obtained, 2.6 g, 80.7% yield.

reactant | 1-fluoro-4-nitro-benzene | 10.0 mmol, 1.1 mL, 1.0 eq. | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-bromo-5-hydroxy-benzaldehyde | 10.0 mmol, 2.0 g, 1.0 eq. | BrC1=C(C=O)C=C(C=C1)O | C7H5BrO2
reactant | K2CO3 | 12.0 mmol, 1.7 g, 1.2 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 30.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 30 mL | O | H2O
product | 2-bromo-5-(4-nitro-phenoxy)-benzaldehyde | 80.7% yield | BrC1=C(C=O)C=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H8BrNO4
